US07105553B2
[4-(2-Pyridinyl)phenyl]acetic acid
700 mg (3.11 mol) of methyl [4-(2-pyridinyl)phenyl]acetate are initially charged in 5 ml of tetrahydrofuran and, at room temperature, admixed with 6.2 ml of a 1M potassium hydroxide solution in water. The mixture is then stirred at room temperature for 18 h, most of the solvent is removed under reduced pressure and the residue is taken up in 10 ml of water and adjusted to a pH of about 5 using 2N hydrochloric acid. The aqueous phase was extracted twice, in each case with 10 ml of dichloromethane, the combined organic phases were dried over magnesium sulphate and the solvent was removed under reduced pressure, giving the compound of Example VIII in the form of a solid.

reactant | methyl [4-(2-pyridinyl)phenyl]acetate | 3.11 mol, 700 mg | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C14H13NO2
reactant | potassium hydroxide | 1M | [OH-].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | [4-(2-Pyridinyl)phenyl]acetic acid | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C13H11NO2
